US07812051B2
To a solution of 4′-(hydroxymethyl)-2,2-dimethyl-3,4-dihydro-2H,5H-spiro[benzo[h]chromene-6,2′-[1,3]dioxolan]-5-one (316 mg, 1.0 mmol) in dichloromethane (2 mL) is added methanesulfonyl chloride (0.095 mL, 1.3 mmol) and triethylamine (0.163 mL, 1.24 mmol). The mixture is stirred at room temperature for 2 hours. The reaction mixture is washed with water (2×1.0 mL), dried over sodium sulfate and concentrated to provide (2,2-dimethyl-5-oxo-3,4-dihydro-2H,5H-spiro[benzo[h]chromene-6,2′-[1,3]dioxolan]-4′-yl)methyl methanesulfonate as a white solid (99% by LC/MS, UV 254 nm). The (2,2-dimethyl-5-oxo-3,4-dihydro-2H,5H-spiro[benzo[h]chromene-6,2′-[1,3]dioxolan]-4′-yl)methyl methanesulfonate (197 mg, 0.5 mmol) is dissolved in DMF (2 mL) followed by the addition of sodium azide (97 mg, 1.5 mmol). The reaction is heated at 80° C. for 24 hour and 100° C. for 12 h. The mixture is diluted with CH2Cl2 (4 mL), washed with water (2 ml) and concentrated. The organic layer is dried with sodium sulfate, concentrated under reduced pressure and purified by flash column chromatography (SiO2, 30% EtOAc in hexane) to provide 4′-(azidomethyl)-2,2-dimethyl-3,4-dihydro-2H,5H-spiro[benzo[h]chromene-6,2′-[1,3]dioxolan]-5-one (25 mg, 15%) as a white solid. 400 MHz 1H NMR (CDCl3) δ: 7.78-7.56 (m, 1H), 7.60-7.57 (m, 1H), 7.44-7.40 (m, 2H), 4.68-4.62 (m, 1H), 4.46-4.42 (m, 1H), 4.23 (t, J=8 Hz, 1H). 3.96-3.91 (m, 1H), 3.54-3.49 (m, 1H), 2.48-2.42 (m, 2H), 1.79 (t, J=6.8 Hz, 2H), 1.42 (d, J=3.2 Hz, 6H); LCMS: 342 [M+H].

reactant | 4′-(hydroxymethyl)-2,2-dimethyl-3,4-dihydro-2H,5H-spiro[benzo[h]chromene-6,2′-[1,3]dioxolan]-5-one | 1.0 mmol, 316 mg | OCC1OC2(OC1)C(C=1CCC(OC1C1=C2C=CC=C1)(C)C)=O | C18H20O5
reactant | methanesulfonyl chloride | 1.3 mmol, 0.095 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 1.24 mmol, 0.163 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | (2,2-dimethyl-5-oxo-3,4-dihydro-2H,5H-spiro[benzo[h]chromene-6,2′-[1,3]dioxolan]-4′-yl)methyl methanesulfonate | CS(=O)(=O)OCC1OC2(OC1)C(C=1CCC(OC1C1=C2C=CC=C1)(C)C)=O | C19H22O7S
